US05725798
Synthesis of 6-(4'-octylbiphenylcarbonyloxy)-1,2,3,4-tetrahydro-2-naphthalenecarboxylic acid (R)-1-methylheptyl ester [Compound (473)]
To a mixture of 0.31 g (1 mmol) of 1,2,3,4-tetrahydro-6-hydroxynaphthalene-2-carboxylic acid (R)-1-methylheptyl ester obtained as in the fourth stage of Example 23 where R-1-methyl heputanol was used in stead of (R)-1-trifluoromethylheptanol, 0.31 g (1 mmol) of 4'-octylbiphenyl-4-carboxylic acid (FK-1124-8 from Teikoku Kagaku Sangyo K.K.), 0.02 g (0.16 mmol) of 4-N,N-dimethylaminopyridine and 15 ml of methylene chloride was added dropwise 3 ml of a methylene chloride solution containing 0.27 g (1.3 mmol) of N,N'-dicyclohexylcarbodiimide with stirring at room temperature over a period of 3 hours.

reactant | 1,2,3,4-tetrahydro-6-hydroxynaphthalene-2-carboxylic acid (R)-1-methylheptyl ester | 1 mmol, 0.31 g | C[C@H](CCCCCC)OC(=O)C1CC2=CC=C(C=C2CC1)O | C19H28O3
reactant | (R)-1-trifluoromethylheptanol | FC([C@@H](CCCCCC)O)(F)F | C8H15F3O
reactant | 4'-octylbiphenyl-4-carboxylic acid | 1 mmol, 0.31 g | C(CCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C21H26O2
reactant | N,N'-dicyclohexylcarbodiimide | 1.3 mmol, 0.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 6-(4'-octylbiphenylcarbonyloxy)-1,2,3,4-tetrahydro-2-naphthalenecarboxylic acid (R)-1-methylheptyl ester | C[C@H](CCCCCC)OC(=O)C1CC2=CC=C(C=C2CC1)OC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CCCCCCCC | C40H52O4
